*** Two LMA 411 in cascade ***

* Adapted for parallel_op.py

.options sparse = 1
*.analysis ac start=5GHz stop=16GHz num= 50 log=False
*.analysis tran tstep= .5ps tstop=1ns shell=0 im=trap shell = 0
.analysis eop 
*.analysis op

.plot ac_dB 2 26 100
.plot tran 2 26 100

* Input: 2, Out1: 26, Out2: 100

* Main circuit
xamp1 12 2 26 gndLMA411
xamp2 12 26 100 gndLMA411
xmain 12 2 26 100 mainckt

**************************************************************************

.subckt gndLMA411 vdd in out 
xamp1 vdd gnd in out lma411
res:rin in gnd r=100k
res:rout out gnd r=100k
.ends

.subckt mainckt 12 2 26 100
# Need this resistor to prevent floating node due to capacitive coupling
res:rload1 26 0 r=10k
res:rload 100 0 r=50
vdc:v1 12 0 vdc=6
vsin:vin 2 0 freq=10e9 mag=.05 phase=-90 rint=50.
.ends

###############################################################
# LM411 Xband MMIC LNA  (LMA 411)
###############################################################
**  
**  Low noise phemt lna using 0.25um technology
**  First PHEMT is 300um (6x50um) wide and second is 400 um wide
**  DC supply of 6 volts
**  GaAs substrate thickness 100 um, silicon nitride passivation:
**  Standard thickness 1,000 ang
**  Litton process 
**  spiral inductor modeled as regular inductor
**
**  Connections: <vdd> <vss> <input> <output>
.subckt lma411 12 100 2 26

.model m_line1 tlinpy4 (z0mag = 73.3 k=7.27 fscale=10e9 alpha=81.5 nsect=10 fopt=10e9 tand=0.006)
.model m_line2 tlinpy4 (z0mag= 86.4  k=6.89 fscale=10e9 alpha=122 nsect=10 fopt=10e9 tand=0.006)
.model m_line3 tlinpy4 (z0mag = 76.2 k=7.18 fscale=10e9 alpha= 87 nsect=10 fopt=10e9 tand=0.006)

cap:c1 2 3 c=6e-12
tlinpy4:t1 3 100 100 100 model=m_line2 length = 1108u
tlinpy4:t2 3 100 4 100 model=m_line3 length = 197u

xm1 5 4 6 mesfet1

tlinpy4:t3 6 100 8 100 model=m_line3 length=313u
tlinpy4:t4 6 100 7 100 model=m_line3 length=320u

cap:c_via4 7 100 c=17p
res:r_via4 7 100 r=10.15
cap:c_via3 8 100 c=17p

tlinpy4:t5 5 100 9 100 model=m_line3 length=102u
tlinpy4:t6 9 100 10 100 model=m_line2 length=380u

res:r1 10 11 r=10.53
res:r2 11 12 r = 66.53
cap:c_s6 11 100 c=17p

tlinpy4:t7 9 100 13 100 model=m_line3 length=33u
cap:c2 13 14 c=2p

tlinpy4:t8 14 100 15 100 model=m_line2 length=705u
tlinpy4:t9 14 100 100 100 model=m_line2 length=419u
tlinpy4:t10 14 100 17 100 model=m_line3 length=69.6u 

xm2 19 17 18 mesfet2

cap:c_via8 18 100 c=17p
res:r_via8 18 100 r=5.12
tlinpy4:t11 19 100 20 100 model=m_line2 length=138u
cap:cfb 20 21 c=4.8p
res:rfb 21 22 r=237.4

*NPortFoster1:f1 22 100 15 0
*+ filename = filtronicsind.yp ports = 2 poles1 = 2 poles2 = 4

ind:lfb 22 1500 l=1.268n 
res:rlfb 1500 15 r=9.55
tlinpy4:t12 19 100 23 100 model=m_line2 length=313.8u

*NPortFoster1:f2 23 100 24 0
*+ filename = filtronicsind.yp ports = 2 poles1 = 2 poles2 = 4

ind:lp 23 2400 l=1.268n 
res:rlp 2400 24 r=1.55

res:rpad 24 12 r=26.6
cap:c_via12 24 100 c=17p
tlinpy4:t13 19 100 25 100 model=m_line1 length=229.4u
cap:cout 25 26 c=6p
.ends

###############################################################
# Subcircuits for MESFET extrinsic models
###############################################################
.subckt mesfet1 5 4 6

mesfetc:m1 51 42 62  a0=0.09910 a1=0.08541  a2=-0.02030 a3=-0.01543 beta=0.01865 gama=0.8293 vds0=6.494 vt0=-1.2 vbi=0.8 cgd0=3f cgs0=528.2f isat=3e-12 nr=1.2 tau=1ps vbd=12 area=1

res:rg 41 42 r=0.83
res:rd 5 51 r=0.83
res:rs 61 62 r=0.33

ind:lg 4 41 l=7e-12
ind:ls 6 61 l=11e-12

cap:cds 51 62 c=60f
cap:cdsd 51 8 c=.01u
res:rdsd 8 62 r=666
cap:cge 41 61 c=12f
cap:cde 5 61 c=15f
cap:cgde 41 51 c=30f

.ends

###############################################################
.subckt mesfet2 5 4 6

mesfetc:m1 51 42 62 a0=0.1321 a1=0.1085 a2=-0.04804 a3=-0.03821 beta=0.03141 gama=0.7946 vds0=5.892 vt0=-1.2 vbi=0.8 cgd0=4e-15 cgs0=695.2f isat=4e-12 n=1.2 tau=1ps vbd=12 area=1

res:rg 41 42 r=0.63
res:rd 52 51 r=0.63
res:rs 61 62 r=0.25

ind:lg 4 41 l=16p
ind:ld 5 52 l=11p
ind:ls 6 61 l=11p

cap:cds 51 62 c=80f
cap:cdsd 51 8 c=.01u
res:rdsd 8 62 r=500
cap:cge 41 61 c=16f
cap:cde 5 61 c=20f
cap:cgde 41 51 c=40f

.ends


.end
